US04433160
Ten grams of cadmium chloride was added to a Grignard reagent prepared from 21.7 g of p-bromoisobutylbenzene, 2.5 g of magnesium and 400 ml of THF. The mixture was refluxed for 10 minutes to give a solution of di-(p-isobutylphenyl)cadmium. A solution of 18 g of ethyl α-bromopropionate in 20 ml of THF was added to the reaction mixture which had been cooled. After standing at 20° C. for 24 hours, dilute hydrochloric acid was added to the mixture. The mixture was extracted with diethyl ether. The extract was washed with water, dried, concentrated, and purified by silica gel column chromatography to give 4.05 g (17.4%) of ethyl α-(p-isobutylphenyl)propionate.

reactant | cadmium chloride | Ten grams | [Cl-].[Cd+2].[Cl-]
reactant | p-bromoisobutylbenzene | 21.7 g | BrC1=CC=C(C=C1)CC(C)C | C10H13Br
reactant | magnesium | 2.5 g | [Mg] | Mg
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | di-(p-isobutylphenyl)cadmium | C(C(C)C)C1=CC=C(C=C1)[Cd]C1=CC=C(C=C1)CC(C)C | InChI=1S/2C10H13.Cd/c2*1-9(2)8-10-6-4-3-5-7-10;/h2*4-7,9H,8H2,1-2H3;
